US08372840B2
ii) 1-[5-(4-Chloro-benzylamino)-2-fluoro-phenyl]-pyrrolidin-2-one
A solution of 1-(5-amino-2-fluoro-phenyl)-pyrrolidin-2-one (0.34 g, 1.8 mmol), 4-chlorobenzaldehyde (0.25 g, 1.8 mmol) and sodium triacetoxyborohydride (0.75 g 3.6 mmol) was stirred in dry dichloromethane (25 ml) overnight. The reaction was quenched with water (25 ml) and the dichloromethane layer separated, dried (magnesium sulphate) and concentrated in vacuo. The residue was purified by flash column chromatography (SiO2) eluting with ethyl acetate/dichloromethane (1:10) to afford the title compound as a yellow oil (253 mg, 44%). HPLC retention time 4.4 min, Mass spectrum (ES+) m/z 319 (M+H).

reactant | 1-(5-amino-2-fluoro-phenyl)-pyrrolidin-2-one | 1.8 mmol, 0.34 g | NC=1C=CC(=C(C1)N1C(CCC1)=O)F | C10H11FN2O
reactant | 4-chlorobenzaldehyde | 1.8 mmol, 0.25 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | sodium triacetoxyborohydride | 3.6 mmol, 0.75 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 1-[5-(4-Chloro-benzylamino)-2-fluoro-phenyl]-pyrrolidin-2-one | 253 mg, 44% | ClC1=CC=C(CNC=2C=CC(=C(C2)N2C(CCC2)=O)F)C=C1 | C17H16ClFN2O
